US05849743
h) 7-Amino-1-(carboxymethyl)-6-nitroquinoxaline-2,3(1H,4H)-dione
57.5 g (0.19 mol) of 7-acetamido-1-(ethoxycarbonylmethyl)quinoxaline-2,3(1H,4H)-dione were dissolved in 575 ml of concentrated sulfuric acid. The solution was cooled to 0° C., and 19.0 g (0.19 mol) of potassium nitrate were added in portions. The cooling was then removed, and the mixture was stirred. After reaction was complete, the mixture was poured into 2 l of ice-water and heated on a waterbath for 2 h. The pH was then adjusted to about 4-5 with aqueous ammonia solution, and the precipitate was filtered off with suction. The filtrate was concentrated under reduced pressure, and the residue was purified by chromatography on silica gel (mobile phase: methanol:tetrahydrofuran:water=5:4:1+2.5% glacial acetic acid). The resulting product was combined with the first precipitate to afford 36.9 g (70%) of product.

reactant | 7-acetamido-1-(ethoxycarbonylmethyl)quinoxaline-2,3(1H,4H)-dione | 0.19 mol, 57.5 g | C(C)(=O)NC1=CC=C2NC(C(N(C2=C1)CC(=O)OCC)=O)=O | C14H15N3O5
reactant | potassium nitrate | 0.19 mol, 19.0 g | [N+](=O)([O-])[O-].[K+]
reactant | ammonia | N | H3N
solvent | sulfuric acid | 575 ml | S(O)(O)(=O)=O | H2O4S
product | 7-Amino-1-(carboxymethyl)-6-nitroquinoxaline-2,3(1H,4H)-dione | 36.9 g, 70% | NC1=C(C=C2NC(C(N(C2=C1)CC(=O)O)=O)=O)[N+](=O)[O-] | C10H8N4O6
